US04169923
nicotinoyl chloride;
nicotinoyl chloride hydrochloride; nicotinoyl imidazole; ethyl nicotinate.

reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | nicotinoyl imidazole | C(C1=CN=CC=C1)(=O)C=1NC=CN1 | C9H7N3O
reactant | ethyl nicotinate | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
product | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
